US09227918B2
To a solution of 1.31 g (7.48 mmol) of methyl 3-(cyanomethyl)benzoate in 31 mL of THF stirred at −10° C. was slowly added 710 mg (18.7 mmol) of sodium borohydride followed by 1.44 mL (18.7 mmol) of trifluoroacetic acid. The mixture was warmed to 22° C. and stirred for about 16 h. About 100 mL of water was carefully added to the mixture (gas evolution). The mixture was extracted with ethyl acetate (5×50 mL). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated to give methyl 3-(2-aminoethyl)benzoate which was used in the next step without purification.

reactant | methyl 3-(cyanomethyl)benzoate | 7.48 mmol, 1.31 g | C(#N)CC=1C=C(C(=O)OC)C=CC1 | C10H9NO2
reactant | sodium borohydride | 18.7 mmol, 710 mg | [BH4-].[Na+]
reactant | trifluoroacetic acid | 18.7 mmol, 1.44 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 100 mL | O | H2O
solvent | THF | 31 mL | C1CCOC1 | C4H8O
product | methyl 3-(2-aminoethyl)benzoate | NCCC=1C=C(C(=O)OC)C=CC1 | C10H13NO2
